US06124354
3-Quinuclidinyl 1-phenylcyclopropanecarboxylate hydrochloride
The title compound was prepared in analogous manner to that in Example 4. The 1-phenylcyclopropanecarbonyl chloride obtained after the chlorination step was reacted with 3-quinuclidinol at 80° C. for 21 h. The reaction mixture was filtered and chromatographed on silica gel using toluene-Et3N 95:5 as eluent. The yield was 0.76 g (40%); mp 229-233° C.; 1H NMR (D2O) δ 1.42-1.48 (m, 2H), 1.72-1.78 (m, 2H), 1.81-1.98 (m, 3H), 2.10 (m, 1H), 2.40 (m, 1H), 3.14 (m, 1H), 3.25-3.41 (m, 4H), 3.71 (m, 1H), 5.17 (m, 1H), 7.44 (m, 1H), 7.49 (m, 2H), 7.55 (m, 2H) Anal. (C17H21NO2.HCl) C, H, N.

reactant | 1-phenylcyclopropanecarbonyl chloride | C1(=CC=CC=C1)C1(CC1)C(=O)Cl | C10H9ClO
reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
product | 3-Quinuclidinyl 1-phenylcyclopropanecarboxylate hydrochloride | Cl.C1(=CC=CC=C1)C1(CC1)C(=O)OC1CN2CCC1CC2 | InChI=1S/C17H21NO2.ClH/c19-16(17(8-9-17)14-4-2-1-3-5-14)20-15-12-18-10-6-13(15)7-11-18;/h1-5,13,15H,6-12H2;1H
